US04999369
Using the procedure outlined in Example 34A except that dimethyl sulfate was used as the alkylating agent, 10H-[1]benzothieno[3,2-b]indole (prepared by the method of K. E. Chippendale and B. Iddon, JCS Perkin Trans. I, 2023 (1972)) gave a 91.9% yield of 10-methyl-10H-[1]benzothieno[3,2-b]indole, mp 175°-176°, (CH2Cl2 /hexane), (C,H,N,S).

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 10H-[1]benzothieno[3,2-b]indole | C1=CC=CC=2C3=C(NC12)C1=C(S3)C=CC=C1 | C14H9NS
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | 10-methyl-10H-[1]benzothieno[3,2-b]indole | 91.9% yield | CN1C2=C(C=3C=CC=CC13)SC1=C2C=CC=C1 | C15H11NS
